US07361671B2
A solution of 5-methyl-thiophene-2-carboxylic acid (25.2 g, 177 mmol) in EtOH (500 mL) is treated with conc. H2SO4 (15 mL) and heated to a gentle reflux for 72 h. The solution is partially concentrated and poured into water (500 mL) and extracted with Et2O (3×). The combined extracts are washed with aq Na2CO3, water, dried over Na2SO4, filtered and concentrated in vacuo. Vacuum distillation of the residue afforded 5-methyl-thiophene-2-carboxylic acid ethyl ester (25.6 g, 85%): bp 98-99° C./9-10 mbar; 1H NMR (CDCl3, 300 MHz) δ 7.6 (s, 1 H), 6.78 (s, 1 H), 4.30 (q, J=6.0 Hz, 2 H), 2.50 (s, 3 H), 1.34 (t, J=6.0 Hz, 3 H).

reactant | 5-methyl-thiophene-2-carboxylic acid | 177 mmol, 25.2 g | CC1=CC=C(S1)C(=O)O | C6H6O2S
reactant | H2SO4 | 15 mL | OS(=O)(=O)O | H2O4S
reactant | EtOH | 500 mL | CCO | C2H6O
product | 5-methyl-thiophene-2-carboxylic acid ethyl ester | 25.6 g, 85% | C(C)OC(=O)C=1SC(=CC1)C | C8H10O2S
